US07384967B2
2-(2,3-Dimethoxy)phenoxy-3-nitropyridine (1.03 g, 75%) was prepared from 2,3-dimethoxyphenol (0.85 g, 5.5 mmol) and 2-bromo-3-nitropyridine (1.05 g, 5.0 mmol) following the general procedure A. This compound was reduced to 2-(2,3-dimethoxyphenoxy)-3-aminopyridine (0.57 g, 62%) following the general procedure B. N-[2-(2,3-Dimethoxyphenoxy)pyridin-3-yl]-N′-(thiazol-2-yl)urea (131 mg, 70%) was prepared from 2-(2,3-dimethoxyphenoxy)-3-aminopyridine (123 mg, 0.5 mmol) and 2-aminothiazole (60 mg, 0.6 mmol) following the general procedure D.

reactant | 2,3-dimethoxyphenol | 5.5 mmol, 0.85 g | COC1=C(C=CC=C1OC)O | C8H10O3
reactant | 2-bromo-3-nitropyridine | 5.0 mmol, 1.05 g | BrC1=NC=CC=C1[N+](=O)[O-] | C5H3BrN2O2
reactant | 2-(2,3-dimethoxyphenoxy)-3-aminopyridine | 0.57 g | COC1=C(OC2=NC=CC=C2N)C=CC=C1OC | C13H14N2O3
reactant | 2-(2,3-dimethoxyphenoxy)-3-aminopyridine | 0.5 mmol, 123 mg | COC1=C(OC2=NC=CC=C2N)C=CC=C1OC | C13H14N2O3
reactant | 2-aminothiazole | 0.6 mmol, 60 mg | NC=1SC=CN1 | C3H4N2S
product | N-[2-(2,3-Dimethoxyphenoxy)pyridin-3-yl]-N′-(thiazol-2-yl)urea | 131 mg, 70% | COC1=C(OC2=NC=CC=C2NC(=O)NC=2SC=CN2)C=CC=C1OC | C17H16N4O4S
